US06479536B1
(+)-5,6-Dimethoxy-2-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]isoindoline Hydrobromide
(+)-5,6-Dimethoxy-2-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]isoindoline (150 mg, 0.327 mmol) was dissolved into a 25% solution of hydrogen bromide in acetic acid and the mixture was concentrated under reduced pressure. The residue was crystallized from methanol to obtain 92 mg (52% yield) of the title compound. Melting point: 174-177° C. [α]D=+40.2° (c=0.495, methanol)

reactant | (+)-5,6-Dimethoxy-2-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]isoindoline | 0.327 mmol, 150 mg | COC=1C=C2CN(CC2=CC1OC)C=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=C(C=C2)C)C1C)C)C | C30H35NO3
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (+)-5,6-Dimethoxy-2-[2,2,4,6,7-pentamethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran-5-yl]isoindoline Hydrobromide | 92 mg, 52% yield | Br.COC=1C=C2CN(CC2=CC1OC)C=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=C(C=C2)C)C1C)C)C | InChI=1S/C30H35NO3.BrH/c1-17-9-11-21(12-10-17)27-26-20(4)28(18(2)19(3)29(26)34-30(27,5)6)31-15-22-13-24(32-7)25(33-8)14-23(22)16-31;/h9-14,27H,15-16H2,1-8H3;1H
